US06756380B1
To a solution of 0.58 g (1.11 mmol) 2-chloromethyl-5-(2-chloro-phenyl)-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide in 10 ml CH2Cl2 0.24 ml (2.78 mmol) morpholine were added. The reaction mixture was stirred for 16 hrs. at RT and than poured into H2O and extracted three times with 50 ml CH2Cl2. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/MeOH/NH4OH 200:10:1) to give 0.40 g (62%) 5-(2-chloro-phenyl)-2-morpholin-4-ylmethyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide as a colorless foam, MS (ISP): 573.1 (M+H+).

reactant | 2-chloromethyl-5-(2-chloro-phenyl)-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 1.11 mmol, 0.58 g | FC(C=1C=C(CN(C(=O)C2=NC(=NC=C2C2=C(C=CC=C2)Cl)CCl)C)C=C(C1)C(F)(F)F)(F)F | C22H15Cl2F6N3O
reactant | CH2Cl2 | 2.78 mmol, 10 ml | C(Cl)Cl | CH2Cl2
reactant | H2O | O | H2O
product | 5-(2-chloro-phenyl)-2-morpholin-4-ylmethyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 0.40 g, 62% | FC(C=1C=C(CN(C(=O)C2=NC(=NC=C2C2=C(C=CC=C2)Cl)CN2CCOCC2)C)C=C(C1)C(F)(F)F)(F)F | C26H23ClF6N4O2
